US05250534
3-Methoxymethyl-1-methyl-5-[5-(4-methylpiperazinylsulphonyl)-2-ethoxyphenyl]1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one
5-(2-Ethoxyphenyl)-3-methoxymethyl-1-methyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one (470 mg, 1.50 mmol) was dissolved in chlorosulphonic acid (3 ml) at 0° C. The solution was stirred at room temperature for 2 hours, then cautiously added to ice-water (50 ml). The resulting solution was neutralised with saturated sodium carbonate solution, then extracted with a 20:1 mixture of dichloromethane and methanol (2×50 ml). The combined organic extracts were evaporated under vacuum and the residue was dissolved in ethanol (5 ml) and the solution treated with N-methylpiperazine (450 mg, 4.5 mmol). After 1 hour at room temperature the solvent was evaporated under vacuum and the residue chromatographed on silica gel, eluting with a mixture of dichloromethane, methanol and aqueous ammonium hydroxide solution (90:10:1 by volume). Trituration of the crude product with ethyl acetate gave the title compound as a white solid (49 mg, 7%), m.p. 198°-199° C. Found: C,52.94; H,6.04; N,17.67. C21H28N6O5S requires C,52.93; H,5.92; N,17.64%.

reactant | 5-(2-Ethoxyphenyl)-3-methoxymethyl-1-methyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 1.50 mmol, 470 mg | C(C)OC1=C(C=CC=C1)C=1NC(C2=C(N1)C(=NN2C)COC)=O | C16H18N4O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-methylpiperazine | 4.5 mmol, 450 mg | CN1CCNCC1 | C5H12N2
reactant | chlorosulphonic acid | 3 ml | ClS(=O)(=O)O | ClHO3S
product | 3-Methoxymethyl-1-methyl-5-[5-(4-methylpiperazinylsulphonyl)-2-ethoxyphenyl]1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 49 mg, 7% | COCC1=NN(C2=C1N=C(NC2=O)C2=C(C=CC(=C2)S(=O)(=O)N2CCN(CC2)C)OCC)C | C21H28N6O5S
